* Example of AC analysis (band pass filter)
V1 A 0 100
L1 A B 1m
C1 B C 1u
R1 C 0 1k

* RC network with fc = 1/(2*pi*sqrt(L1*C1))= 5032.92 Hz

* from 1 Hz to 200 Hz with 50 points per decade
.ac dec 50 50 500k

* V(R1)/V(V1) --> band pass filter
.tf v(R1) v(V1) 
